US09193693B2
Step 1. (S)-Methyl 3-(3-hydroxypyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate
Into an 8-mL sealed tube, was placed methyl 3-bromo-2-phenylquinoxaline-6-carboxylate (150 mg, 0.44 mmol, 1.00 equiv), (S)-pyrrolidin-3-ol hydrochloride (163 mg, 1.32 mmol, 3.00 equiv), DIEA (227 mg, 1.76 mmol, 4.00 equiv), toluene (4 mL), in DMSO (2 ml). The resulting solution was stirred at 100° C. for 7 hrs. Then the reaction was quenched by the addition of water. The resulting solution was extracted with 5×15 mL of dichloromethane and the organic layers were combined and concentrated in vacuo. The residue was purified by silica gel chromatography with dichloromethane/methanol (70:1). This resulted in 176 mg (crude) of (S)-methyl 3-(3-hydroxypyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate as a yellow solid.

reactant | methyl 3-bromo-2-phenylquinoxaline-6-carboxylate | 0.44 mmol, 150 mg, 1.00 equiv | BrC=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C16H11BrN2O2
reactant | (S)-pyrrolidin-3-ol hydrochloride | 1.32 mmol, 163 mg, 3.00 equiv | Cl.N1C[C@H](CC1)O
reactant | DIEA | 1.76 mmol, 227 mg, 4.00 equiv | CCN(C(C)C)C(C)C | C8H19N
reactant | toluene | 4 mL | C1(=CC=CC=C1)C | C7H8
solvent | DMSO | 2 ml | CS(=O)C | C2H6OS
product | (S)-Methyl 3-(3-hydroxypyrrolidin-1-yl)-2-phenylquinoxaline-6-carboxylate | O[C@@H]1CN(CC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OC)C1=CC=CC=C1 | C20H19N3O3
